US07749992B2
To a solution of 2-Amino-5-bromo-4-chloro-benzoic acid methyl ester (2.08 g, 7.86 mmol) and pyridine (1.91 ml, 23.6 mmol) in dichloromethane (75.0 ml) was added 1.00N isopropylchloroformate in toluene dropwise. The mixture was stirred for 16 hours at room temperature. The mixture washed with 0.500N HCl(aq) (100 ml), and brine (3×100 ml), then dried (Na2SO4) and concentrated to an oil. Purification by silica gel chromatography (gradient eluent, 0-10% ethyl acetate in hexane) provided 5-Bromo-4-chloro-2-isopropoxycarbonylamino-benzoic acid methyl ester (2.53 g, 92%) as a white crystalline material. MS (ES+): 350, 352 (M+H).

reactant | 2-Amino-5-bromo-4-chloro-benzoic acid methyl ester | 7.86 mmol, 2.08 g | COC(C1=C(C=C(C(=C1)Br)Cl)N)=O | C8H7BrClNO2
reactant | pyridine | 23.6 mmol, 1.91 ml | N1=CC=CC=C1 | C5H5N
reactant | isopropylchloroformate | 1.00N | C(C)(C)OC(=O)Cl | C4H7ClO2
solvent | dichloromethane | 75.0 ml | ClCCl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-4-chloro-2-isopropoxycarbonylamino-benzoic acid methyl ester | 2.53 g, 92% | COC(C1=C(C=C(C(=C1)Br)Cl)NC(=O)OC(C)C)=O | C12H13BrClNO4
